US08119636B2
2,2-Dimethyl-1-[2-(2-methyl-benzoyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-propan-1-one.
1-[2-(Hydroxy-o-tolyl-methyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one was treated with Dess-Martin periodinane, following general procedures described in these Examples. MP=152-154 C, (M+H)+=322.

reactant | 1-[2-(Hydroxy-o-tolyl-methyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one | OC(C=1N=C2C(=NC1)NC=C2C(C(C)(C)C)=O)C2=C(C=CC=C2)C | C19H21N3O2
reactant | Dess-Martin periodinane | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
product | 2,2-Dimethyl-1-[2-(2-methyl-benzoyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-propan-1-one | CC(C(=O)C1=CNC2=NC=C(N=C21)C(C2=C(C=CC=C2)C)=O)(C)C | C19H19N3O2
